US05808062
3-[(2-Ethylphenyl)thio]-4-hydroxy-6-phenyl-2H-pyran-2-one:
The title compound was prepared by Method A using 1-phenyl-1-(trimethylsilyloxy)ethylene (4.17 g, 21.72 mmol) and diethyl ester of [(2-ethylphenyl)thio]propanedioic acid (1.5 g, 10.86 mmol). m.p. 190°-192° C.; 1H NMR (400 MHz, DMSO-d6) δ 1.25 (t, 3H), 2.78 (q, 2H), 6.89 (s, 1H), 6.92 (m, 1H), 7.08 (m, 2H), 7.2 (m, 1H), 7.58 (m, 3H), 7.86 (m, 2H).

reactant | 1-phenyl-1-(trimethylsilyloxy)ethylene | 21.72 mmol, 4.17 g | C1(=CC=CC=C1)C(=C)O[Si](C)(C)C | C11H16OSi
reactant | [(2-ethylphenyl)thio]propanedioic acid | 10.86 mmol, 1.5 g | C(C)C1=C(C=CC=C1)SC(C(=O)O)C(=O)O | C11H12O4S
product | 3-[(2-Ethylphenyl)thio]-4-hydroxy-6-phenyl-2H-pyran-2-one | C(C)C1=C(C=CC=C1)SC=1C(OC(=CC1O)C1=CC=CC=C1)=O | C19H16O3S
